US04277394
(II) Production of BOC-(D)-Met(O2)-Gly-Phe-NHNH-COCH3
Using H-Gly-Phe-NHNH-COCH3 (0.69 g) and BOC-(D)-Met(O2)-OH (0.66 g), the desired compound (0.67 g) is obtained in a similar manner to (III)of Example 45. m.p. 198°-199° C.(decomp.), [α]D23 -2.5°(c=0.49, DMF), Rf1 =0.25.

reactant | H-Gly-Phe-NHNH-COCH3 | 0.69 g | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C | C13H18N4O3
reactant | BOC-(D)-Met(O2)-OH | 0.66 g | N([C@H](CCS(=O)(=O)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO6S
product | BOC-(D)-Met(O2)-Gly-Phe-NHNH-COCH3 | 0.67 g | N([C@H](CCS(=O)(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OC(C)(C)C | C23H35N5O8S
